US07741315B2
Step 7: N-[2-(Benzyloxy)ethyl]-N-(4-hydroxybutyl)-6-(3-chloro-4-fluorobenzyl)-4-methoxy-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridine-1-carboxamide
To a solution of N-[2-(benzyloxy)ethyl]-N-(4-{[tert-butyl(dimethyl)silyl]-oxy}butyl)-6-(3-chloro-4-fluorobenzyl)-4-methoxy-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridine-1-carboxamide (0.41 g, 0.59 mmol) in THF, a solution of tetra-n-butyl-ammonium fluoride (0.65 mL, 1M) in THF was added. The reaction mixture was stirred at room temperature overnight, and concentrated under vacuum. The residue was subjected to column chromatography on silica gel eluting with 3% methanol in dichloromethane. Collection and concentration of appropriate fractions afforded the title compound.

reactant | N-[2-(benzyloxy)ethyl]-N-(4-{[tert-butyl(dimethyl)silyl]-oxy}butyl)-6-(3-chloro-4-fluorobenzyl)-4-methoxy-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridine-1-carboxamide | 0.59 mmol, 0.41 g | C(C1=CC=CC=C1)OCCN(C(=O)C=1NC(C(=C2C(N(CCC12)CC1=CC(=C(C=C1)F)Cl)=O)OC)=O)CCCCO[Si](C)(C)C(C)(C)C | C36H47ClFN3O6Si
reactant | tetra-n-butyl-ammonium fluoride | 1M, 0.65 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | C1CCOC1 | C4H8O
product | N-[2-(Benzyloxy)ethyl]-N-(4-hydroxybutyl)-6-(3-chloro-4-fluorobenzyl)-4-methoxy-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridine-1-carboxamide | C(C1=CC=CC=C1)OCCN(C(=O)C=1NC(C(=C2C(N(CCC12)CC1=CC(=C(C=C1)F)Cl)=O)OC)=O)CCCCO | C30H33ClFN3O6
